US04731358
480 mg of β-carboline-3-carboxylic acid estyl ester are dissolved in 40 ml of tetrahydrofuran and added drop by drop to a Grignard solution consisting of 144 mg of magnesium chips and 660 mg of ethylbromide in 10 ml of diethyl ether. After 2 hours of reflux it is mixed with aqueous ammonium chloride solution and extracted with methylene chloride. After drying, filtering and evaporation, the residue is chromatographed on silica gel with toluene/glacial acetic acid/water=10:10:1 as eluant. 120 mg of 3-(1-ethyl-1-hydroxy-propyl)-β-carboline are obtained as oil.

reactant | β-carboline-3-carboxylic acid | 480 mg | C1=NC(=CC=2C3=CC=CC=C3NC12)C(=O)O | C12H8N2O2
reactant | magnesium | 144 mg | [Mg] | Mg
reactant | ethylbromide | 660 mg | C(C)Br | C2H5Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 3-(1-ethyl-1-hydroxy-propyl)-β-carboline | 120 mg | C(C)C(CC)(O)C=1N=CC=2NC3=CC=CC=C3C2C1 | C16H18N2O
